US04115575
Catalytic debenzylation of a solution of 28.3 g of 2-(3'-benzylamino-2'-hydroxy-propoxy)-3-methyl-pyridine in 300 ml of ethyl acetate, with the addition of a total of 12 g of palladium on charcoal (5% strength), gives 2-(3'-amino-2'-hydroxy-propoxy)-3-methylpyridine of boiling point 120°-130° C./0.07 mm Hg in a bulb tube.

reactant | 2-(3'-benzylamino-2'-hydroxy-propoxy)-3-methyl-pyridine | 28.3 g | C(C1=CC=CC=C1)NCC(COC1=NC=CC=C1C)O | C16H20N2O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 12 g | [Pd] | Pd
product | 2-(3'-amino-2'-hydroxy-propoxy)-3-methylpyridine | NCC(COC1=NC=CC=C1C)O | C9H14N2O2
